Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
Mr. ___ is ___ with history of anxiety/depression, ADHD, 
ETOH abuse, h/o pancreatitis (most recently ___ who is 
presenting with epigastric pain and vomiting for the last day. 

The patient reports that he has been feeling unwell for the last 
___ weeks with when he started vomiting a lot; reports that 
vomitus was  nonbilious and nonbloody. He was still able to 
tolerate PO and was drinking etoh almost daily during this time. 
 The patient's wife reports that his Ativan was helping with his 
symptoms.  For the last two days, the patient reports that his 
vomiting has gotten severe, with increased frequency. He 
continues to report that vomitus is nonbloody and nonbilious.  
Reports that he has been unable to tolerate PO for the last two 
days. He also reports that his epigastric abdominal pain started 
about one night ago. The pain is primarily located in the 
epigastrium, with some radiation to the R side of abdomen. 
Denies radiation of the pain to the back. Reports that pain is 
consistent with past episode of pancreatitis, though reports 
that this episode is much worse than prior episode.

Drinks almost daily; reports drinking anywhere from ___ beers 
daily, or ___ mixed drinks daily.  Denies any history of 
tremulousness when stops drinking. Denies history of etoh 
withdrawal seizures. Last drink was the evening prior to 
presenation. 

In the ED, initial VS: 97.4 107 150/98 18 99%. While in the ED, 
labs notable for lipase 724, white count 13.4. The patient was 
given Zofran 4 mg x2, morphine 5 mg IV x 1, Dilaudid 1 mg once 
may repeat once. He was given 2L IVF. RUQ ultrasound done in the 
ED, notable for no evidence of cholelithiasis, notable for 
echogenecity, which could be consistent with fatty infiltration. 
 Vitals prior to transfer: 97.8 108 150/88 18 96% RA 
 
Currently, the patient reports feeling persistent abdominal pain 
___. Reports that pain is worse than his last episode of 
pancreatitis. Denies any diarrhea; does report having the urge 
to defecate but being unable to do so. Reports straining and 
some hemorrhoidal irritation in the setting of straining. Does 
not some blood with wiping due to his hemorrhoids. Denies any 
fevers/chills, no chest pain or shortness of breath, denies any 
urinary symptoms.    

 
Past Medical History:
anxiety
borderline hypertension
fatty liver
insomnia
GERD
ADHD
neuropathy
depression

 
Social History:
___
Family History:
FAMILY HISTORY:
Reports brother and sister with RA, maternal GM with MS, 
esophageal and lung cancer on both sides of family

 
Physical Exam:
Admission PE:
Vitals- 98.1 166/98 110 18 94RA  
General- Alert, oriented, no acute distress, though slightly 
diaphoretic 
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple 
Lungs- CTAB no wheezes, rales, rhonchi  
CV- tachycardic, Nl S1, S2, No MRG 
Abdomen- soft, obese, +BS, tenderness primarily localized in the 
epigastrium, with some extension towards the RUQ, no rebound, 
non guarding, no hepatomegaly noted
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal , no 
asterixis with arms outstretched, but noted to have very slight 
tremor; slight tongue fasculations noted 

Discharge PE:
VSS
General- Alert, oriented, no acute distress
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple 
Lungs- CTAB no wheezes, rales, rhonchi  
CV- RRR Nl S1, S2, No MRG 
Abdomen- soft, obese, +BS, very minimal tenderness to palpation 
in the epigastrium, no rebound, non guarding, no hepatomegaly 
noted
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal, no 
asterixis or tremor noted 
 
Pertinent Results:
Admission labs:

___ 07:00AM BLOOD WBC-13.4*# RBC-4.34* Hgb-15.3 Hct-45.4 
MCV-105* MCH-35.2* MCHC-33.6 RDW-13.2 Plt ___
___ 06:05AM BLOOD WBC-10.0 RBC-3.99* Hgb-14.0 Hct-41.1 
MCV-103* MCH-35.0* MCHC-34.0 RDW-12.1 Plt ___
___ 07:00AM BLOOD Glucose-125* UreaN-14 Creat-0.7 Na-141 
K-4.3 Cl-103 HCO3-22 AnGap-20
___ 06:05AM BLOOD Glucose-113* UreaN-6 Creat-0.6 Na-135 
K-3.7 Cl-97 HCO3-28 AnGap-14
___ 07:00AM BLOOD ALT-60* AST-61* LD(LDH)-259* AlkPhos-98 
TotBili-0.6
___ 06:05AM BLOOD ALT-44* AST-35 AlkPhos-99 TotBili-2.6*
___ 07:00AM BLOOD Albumin-4.4 Calcium-8.8 Phos-4.6* Mg-1.6
___ 06:05AM BLOOD Calcium-8.9 Phos-3.5 Mg-1.8
___ 07:00AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ 07:00AM BLOOD Lipase-724*

___ 07:00AM BLOOD HCV Ab-NEGATIVE

Discharge labs:

___ 06:05AM BLOOD WBC-7.4 RBC-3.76* Hgb-13.2* Hct-39.3* 
MCV-105* MCH-35.2* MCHC-33.6 RDW-12.7 Plt ___
___ 06:05AM BLOOD Glucose-111* UreaN-8 Creat-0.8 Na-139 
K-3.9 Cl-100 HCO3-28 AnGap-15
___ 06:05AM BLOOD ALT-35 AST-32 AlkPhos-103 TotBili-1.6*
___ 06:05AM BLOOD Calcium-8.9 Phos-4.1 Mg-2.1

RUQ ultrasound:
IMPRESSION: 
1.  Echogenic liver, likely due to fatty infiltration. Other 
forms of more severe liver disease including hepatic 
fibrosis/cirrhosis cannot be excluded. 
2.  No evidence of cholelithiasis or biliary dilatation.
 
Brief Hospital Course:
Mr. ___ is ___ with history of anxiety/depression, ADHD, 
ETOH abuse, h/o pancreatitis (most recently ___ who is 
presenting with epigastric pain and vomiting for the last day, 
notable for elevated lipase, concerning for pancreatitis. 

#  pancreatitis: The patient was found to have elevated lipase 
in the setting of epigastric pain. BISAP score on admission was 
0. It was thought that pancreatitis was due alcohol intake. RUQ 
did not show evidence of any cholelithiasis. The patient was 
initially made NPO, pain controlled with IV Dilaudid, and given 
aggressive volume rescucitation with LR.  He also had a Dobhoff 
placed with the intention to start post pylorically tube 
feeding, however, it was pulled out overnight accidentally. The 
patient never needed to start tube feeds, as his ability to take 
PO improved on HD2. The patient was started on low fat full 
liquid diet and on the day of discharge, he was taking good PO.  
In terms of his pain control, the patient was started on IV 
Dilaudid, and we were able to transition to PO Dilaudid. The 
patient was NOT discharged on any Dilaudid. He was instructed to 
follow up with PCP on ___.

# etoh and benzo abuse: The patient reports daily drinking, with 
his last drink about 12 hours prior to presentation. He also 
reports taking daily benzos. After talking with the patient's 
PCP and psychiatrist, it was discovered that the patient was 
getting alprazolam and lorazepam prescriptions from his PCP, and 
clonazepam prescriptions from his psychiatrist. Both the 
patient's PCP and psychiatrist were unaware that the patient was 
getting benzodiazepine prescriptions from other providers. Psych 
was consulted and the patient was started on standing 
clonazepam, as well as a CIWA. Social work was consulted and the 
patient spoke with our addiction specialist ___). 
The patient stated that he was not ready for alcohol abstinence. 


# transaminitis: The patient was noted to have mild 
transaminitis on admission. LFTs were trending down during this 
admission. Alcohol cessation, as discussed above, was discussed 
with the patient. 

# leukocytosis: The patient had white count of 13.4 on 
admission; likely due to underlying pancreatic inflammation 
versus stress response. White count trended down, and was normal 
on discharge. Blood cultures no growth to date.  

# anion gap acidosis: The patient had anion gap acidosis on 
admission of 16; it was thought that this was in the setting of 
alcoholic ketoacidosis. 

# thrombocytopenia: The patient was noted to be 
thrombocytopenic, with platelets trending down on the last two 
days of discharge. Platelets on day of discharge 135.   He will 
need to get his platelets checked on ___. 

Transitional Issues:
- The patient was noted to be taking multiple different types of 
benzodiazapines, being prescribed by different providers. He was 
discharged on only one benzo (clonazepam). The patient was not 
provided with any further prescriptions. The patient was advised 
to DISPOSE of his other benzodiazepines (alprazolam and 
lorazepam), and continue ONLY on clonazepam. He has follow up 
with his PCP on ___.
- The patient was not discharged on any narcotics; no 
prescriptions were provided. He was advised to take 
acetominophen for pain control, but cautioned to NOT exceed 2 
grams daily in the setting of his underlying liver issues.
- The patient should get his platelets checked on ___ when seen by his PCP. Platelets were trending down at the 
time of discharge.
- The patient would likely benefit from outpatient sleep study. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Adderall (dextroamphetamine-amphetamine) 20 mg oral BID 
2. Fluoxetine 60 mg PO DAILY 
3. ALPRAZolam 1 mg PO TID:PRN anxiety 
4. Famotidine 20 mg PO BID 
5. Gabapentin 900 mg PO TID 
6. Lorazepam 1 mg PO HS:PRN insomnia 
7. ClonazePAM 0.5 mg PO QAM 
8. ClonazePAM 1 mg PO QPM 

 
Discharge Medications:
1. ClonazePAM 0.5 mg PO 2X/DAY 
2. ClonazePAM 1 mg PO QPM 
3. Famotidine 20 mg PO BID 
4. Fluoxetine 60 mg PO DAILY 
5. Gabapentin 900 mg PO TID 
6. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
7. Multivitamins 1 TAB PO DAILY 
RX *multivitamin   1 capsule(s) by mouth daily Disp #*30 Capsule 
Refills:*0
8. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
9. Adderall (dextroamphetamine-amphetamine) 20 mg ORAL BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary diagnosis:
pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you while you were admitted to 
___.  You were admitted to the hospital because you were 
having abdominal pain. We think that you have pancreatitis 
(inflammation of your pancreas) because of the alcohol that you 
drink.  We treated your pain with medications, and we advanced 
your diet slowly.

It will be VERY important that you stop drinking. Alcohol can 
cause recurrent episodes of pancreatitis, as well as liver 
disease. 

We also spoke with your primary care doctor and psychiatrist. 
Please STOP taking alprazolam and lorazepam. You should continue 
only the clonazepam, and get this prescription from ONE doctor. 
DO NOT continue to take multiple benzodiazepines. 

It will be very important for you to follow up with your primary 
care doctor. You have an appointment to see him on ___. 
 
Followup Instructions:
___